US04230623
168 g of 4-methoxy-3-(2-thienyl)-acrylophenone are heated to the boiling point together with 267 g of 2-nitropropane and 400 ml of absolute methanol. A solution of 43 g of sodium methylate in absolute methanol is added within 60 minutes. The resulting mixture is still refluxed during 3 hours. After cooling 43 g of glacial acetic acid are added to the reaction mixture, which is then evaporated to dryness. The residue is taken up with 1500 ml of dichloromethane. This solution is twice washed with 500 ml of water each time, dried over sodium sulfate and evaporated to dryness. The residue crystallises from ethanol and yields 4'-methoxy-4-methyl-4-nitro-3-(2-thienyl)-valerophenone of melting point 90° C.

reactant | 4-methoxy-3-(2-thienyl)-acrylophenone | 168 g | COC=1C=C(SC1)C=CC(=O)C1=CC=CC=C1 | C14H12O2S
reactant | 2-nitropropane | 267 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | sodium methylate | 43 g | C[O-].[Na+]
reactant | acetic acid | 43 g | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | methanol | 400 ml | CO | CH4O
product | 4'-methoxy-4-methyl-4-nitro-3-(2-thienyl)-valerophenone | COC1=CC=C(C=C1)C(CC(C(C)([N+](=O)[O-])C)C=1SC=CC1)=O | C17H19NO4S
